US05128448
To a stirring mixture of 2-propynoic acid phenylmethyl ester (2.46 g, 15.4 mmol) and tributyltin hydride (3.89 mL, 14.9 mmol, 97% purity) was added 2,2'-azobisisobutyronitrile (99.4 mg) and the reaction mixture was slowly warmed to 65° C. After stirring for 8 h at 65° C., the cooled reaction mixture was purified by flash chromatography, eluting with a mixture of hexane and EtOAc (50:1) to give 3-(tributylstannyl)-2-propenoic acid phenylmethyl ester (4.80 g, 10.65 mmol) as a mixture of E and Z isomers, in 69% yield.

reactant | 2-propynoic acid phenylmethyl ester | 15.4 mmol, 2.46 g | C1(=CC=CC=C1)COC(C#C)=O | C10H8O2
reactant | tributyltin hydride | 14.9 mmol, 3.89 mL | C(CCC)[SnH](CCCC)CCCC
catalyst | 2,2'-azobisisobutyronitrile | 99.4 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 3-(tributylstannyl)-2-propenoic acid phenylmethyl ester | 10.65 mmol, 4.80 g, 69% yield | C1(=CC=CC=C1)COC(C=C[Sn](CCCC)(CCCC)CCCC)=O | InChI=1S/C10H9O2.3C4H9.Sn/c1-2-10(11)12-8-9-6-4-3-5-7-9;3*1-3-4-2;/h1-7H,8H2;3*1,3-4H2,2H3;
